US04271294
(2,2-di-(2-(4-methylpiperazino)ethoxy)-1,2-diphenyl-ethanone)
With stirring, 23.6 g (0.067 mole) of benzil-di-(2-chloroethyl)ketal and 120 g (1.2 moles) of N-methylpiperazine are kept for 3 hours at 95° C. After cooling, 250 ml of toluene are added and the reaction mixture is poured into water. The aqueous layer is extracted with toluene and the toluene layer is subsequently washed neutral with water. The toluene layer is dried over Na2SO4, concentrated and dried in a high vacuum.

reactant | benzil-di-(2-chloroethyl)ketal | 0.067 mole, 23.6 g | ClCCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCCl | C18H18Cl2O3
reactant | N-methylpiperazine | 1.2 moles, 120 g | CN1CCNCC1 | C5H12N2
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2,2-di-(2-(4-methylpiperazino)ethoxy)-1,2-diphenyl-ethanone | CN1CCN(CC1)CCOC(C(=O)C1=CC=CC=C1)(C1=CC=CC=C1)OCCN1CCN(CC1)C | C28H40N4O3
